US06057304
582 mg (1.4 mmol) of 4-(6-nitro-2,3-dioxo-1,2,3,4-tetrahydroquinoxalin-1-ylmethyl)phenylphosphonic acid ethyl ester is refluxed in 6 ml of concentrated hydrochloric acid for 2 hours. After cooling, the batch is combined with water and suctioned off. The filter cake is dried, thus obtaining 253 mg of 4-(6-nitro-2,3-dioxo-1,2,3,4-tetrahydroquinoxalin-1-ylmethyl)phenylphosphonic acid, mp: 253-265° C. with decomposition.

reactant | 4-(6-nitro-2,3-dioxo-1,2,3,4-tetrahydroquinoxalin-1-ylmethyl)phenylphosphonic acid ethyl ester | 1.4 mmol, 582 mg | C(C)OP(O)(=O)C1=CC=C(C=C1)CN1C(C(NC2=CC(=CC=C12)[N+](=O)[O-])=O)=O | C17H16N3O7P
reactant | water | O | H2O
solvent | hydrochloric acid | 6 ml | Cl | ClH
product | 4-(6-nitro-2,3-dioxo-1,2,3,4-tetrahydroquinoxalin-1-ylmethyl)phenylphosphonic acid | 253 mg | [N+](=O)([O-])C=1C=C2NC(C(N(C2=CC1)CC1=CC=C(C=C1)P(O)(O)=O)=O)=O | C15H12N3O7P
